US09382265B2
(c) 4-((3R,3 aS)-3-((methylsulfonyloxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester
Using compound 4-((3R,3 aS)-3-(hydroxymethyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester (0.946 g, 2.088 mmol), methylsulfonyl chloride (0.359 g, 3.13 mmol), and TEA (0.422 g, 4.18 mmol) as starting materials, preparation following the method as described in Example 1 (c) afforded white solid 0.916 g, yield: 82.52%.

reactant | 4-((3R,3 aS)-3-(hydroxymethyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester | 2.088 mmol, 0.946 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C=1C=CC2=C(OC[C@@H]3N2C(O[C@H]3CO)=O)C1)=O | C23H23N3O7
reactant | methylsulfonyl chloride | 3.13 mmol, 0.359 g | CS(=O)(=O)Cl | CH3ClO2S
product | 4-((3R,3 aS)-3-((methylsulfonyloxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester | 0.916 g, yield: 82.52% | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C=1C=CC2=C(OC[C@@H]3N2C(O[C@H]3COS(=O)(=O)C)=O)C1)=O | C24H25N3O9S
